US08217177B2
3-chloro-6-(3-methylisothiazol-5-yl)pyridazine
To a solution of 5-bromo-3-methylisothiazole (2.42 g, 14 mmol) in 20 mL of THF at −45° C. was added isopropylmagnesium chloride (19 ml, 19 mmol) in THF (1 M). After 20 minutes, zinc(II) chloride (41 ml, 20 mmol) in THF (0.5 M) was added and the solution was warmed up to rt. 3,6-dichloropyridazine (2.4 g, 16 mmol), 3,6-dichloropyridazine (2.4 g, 16 mmol) and Q-Phos (2.5 g) were added and the reaction was heated to 50° C. for 16 hours. The reaction was then cooled to 23° C. and quenched with 60 mL of satd. NH4Cl aq. solution. The mixture was mixed with celite and 100 mL of EtOAc. The insoluble material was removed by filtration. The filtrate was diluted with 40 mL of EtOAc and 30 mL of water. The organic phase was separated and washed with 60 mL of brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (10% to 80% hex/EtOAc) to afford red solid as desired product. MS (ESI pos. ion) m/z: 212 (MH+). Calc'd exact mass for C8H6ClN3S: 211.

reactant | 5-bromo-3-methylisothiazole | 14 mmol, 2.42 g | BrC1=CC(=NS1)C | C4H4BrNS
reactant | isopropylmagnesium chloride | 19 mmol, 19 ml | C(C)(C)[Mg]Cl
reactant | 3,6-dichloropyridazine | 16 mmol, 2.4 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | 3,6-dichloropyridazine | 16 mmol, 2.4 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 1 M | C1CCOC1 | C4H8O
solvent | THF | 0.5 M | C1CCOC1 | C4H8O
catalyst | zinc(II) chloride | 20 mmol, 41 ml | [Cl-].[Zn+2].[Cl-]
catalyst | Q-Phos | 2.5 g | CC(C)(C)P([C-]1C=CC=C1)C(C)(C)C.C1=CC=C(C=C1)[C-]2C(=C(C(=C2C3=CC=CC=C3)C4=CC=CC=C4)C5=CC=CC=C5)C6=CC=CC=C6.[Fe+2]
product | 3-chloro-6-(3-methylisothiazol-5-yl)pyridazine | ClC=1N=NC(=CC1)C1=CC(=NS1)C | C8H6ClN3S
